US09328118B2
After concentrated hydrochloric acid (3.1 mL) was added to a solution of 1-cyclobutyl-2-(methoxymethoxy)benzene (1.43 g) in MeOH (29 mL) at room temperature, the mixture was stirred at 60° C. for 2 hours. After the reaction mixture was cooled to room temperature, a standard buffer solution of pH 6.86 was added thereto, and EtOAc was added. Extraction was performed on the mixture using EtOAc, and the extract was washed with saturated brine. The organic layer was dried over Na2SO4 and filtered, and the filtrate was concentrated under reduced pressure, whereby 2-cyclobutylphenol (1.1 g) was obtained as a colorless oil.

reactant | hydrochloric acid | 3.1 mL | Cl | ClH
reactant | 1-cyclobutyl-2-(methoxymethoxy)benzene | 1.43 g | C1(CCC1)C1=C(C=CC=C1)OCOC | C12H16O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | MeOH | 29 mL | CO | CH4O
product | 2-cyclobutylphenol | 1.1 g | C1(CCC1)C1=C(C=CC=C1)O | C10H12O
